Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Morphine / Ambien
 
Attending: ___.
 
Chief Complaint:
Abnormal Labs
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old male with PMH significant for liver
transplant (for hepatitis C cirrhosis and HCC), whose 
liver transplant was complicated by a biliary stricture and 
recurrent cirrhosis of the graft ___ HCV and ETOH relapse), who
recently suffered a CVA in ___, who is being admitted for
transaminitis and plan for liver biopsy.

Of note, the patient is ___ years post liver transplant for
chronic hepatitis C and HCC, whose liver transplant was
complicated by a biliary stricture and later recurrent cirrhosis
of the graft ___ HCV and ETOH relapse. He has since been treated
for HCV and has been abstinent from EtOH and stable for many
years. 

He was recently admitted in ___ for left sided PCA stroke. 
The patient has since suffered from right visual field home on
homonymous hemianopsia. He also has had difficulty with short
term memory, speech, and reading.  After the stroke, he was
started on atorvastatin 80 mg.  His follow-up labs revealed
transaminitis with an ALT value greater than 100.  He was 
stopped
on the statin, but his ALT remained elevated.  For this reason 
he
was referred for admission for liver biopsy.

He otherwise has been in his normal state of health and denies
full GI ROS, including nausea, vomiting, abdominal pain,
diarrhea.

 
Past Medical History:
- Liver transplant for chronic HCV and ___ c/b biliary stricture
and recurrent cirrhosis ___ HCV and ETOH relapse
- Hypertension
- Chronic Hep B
- GERD
- Hx of PCA CVA
 
Social History:
___
Family History:
Non-contributory to presenting complaint
 
Physical Exam:
Admission PE
___ ___ Temp: 97.9 PO BP: 143/73 R Sitting HR: 65 RR: 18 
O2
sat: 96% O2 delivery: Ra 
GEN: Well appearing, NAD
HEENT: Conjunctiva clear, PERRL, MMM
NECK: No JVD. 
LUNGS: CTAB
HEART: RRR, nl S1, S2. No m/r/g.
ABD: NT/ND, normal bowel sounds. 
EXTREMITIES: No edema. WWP.
NEURO: AOx3. Right visual field loss. Poor short term memory and
some aphasia. ___ Strength in UE and ___. Normal Sensation.

Discharge PE
24 HR Data (last updated ___ @ 607)
    Temp: 97.8 (Tm 98.2), BP: 129/84 (113-161/66-84), HR: 58
(58-76), RR: 18 (___), O2 sat: 97% (96-97), O2 delivery: Ra,
Wt: 172.4 lb/78.2 kg  
GEN: Well appearing, NAD
LUNGS: CTAB
HEART: RRR, nl S1, S2. No m/r/g.
ABD: NT/ND, normal bowel sounds. 
EXTREMITIES: No edema. WWP.
NEURO: AOx3. Right visual field loss. Poor short term memory and
some word finding difficulty. ___ Strength in UE and ___. Normal
Sensation. 

 
Pertinent Results:
Admission Labs

___ 05:10PM BLOOD WBC-5.9 RBC-4.25* Hgb-13.4* Hct-38.8* 
MCV-91 MCH-31.5 MCHC-34.5 RDW-13.2 RDWSD-43.1 Plt ___
___ 05:10PM BLOOD Glucose-125* UreaN-21* Creat-1.1 Na-136 
K-4.6 Cl-102 HCO3-23 AnGap-11
___ 05:10PM BLOOD ALT-78* AST-37 LD(LDH)-189 AlkPhos-132* 
TotBili-0.8

Discharge Labs:

___ 07:07AM BLOOD WBC-5.1 RBC-4.23* Hgb-13.3* Hct-38.6* 
MCV-91 MCH-31.4 MCHC-34.5 RDW-13.1 RDWSD-43.2 Plt ___
___ 07:07AM BLOOD Glucose-152* UreaN-20 Creat-1.0 Na-142 
K-4.4 Cl-104 HCO3-20* AnGap-18
___ 07:07AM BLOOD ALT-63* AST-30 AlkPhos-133* TotBili-0.6

Studies:
CTA Liver ___
Status post liver transplant with no evidence of hepatic artery 
stenosis or occlusion. 

 
Brief Hospital Course:
Mr. ___ is a ___ year old male with PMH significant for liver
transplant (for hepatitis C cirrhosis and HCC), whose 
liver transplant was complicated by a biliary stricture and 
recurrent cirrhosis of the graft ___ HCV and ETOH relapse), who
recently suffered a CVA in ___, who was admitted for
transaminitis. The patient was placed on high-dose statin after 
his CVA in ___, however his LFTs began to rise and the 
medication was subsequently discontinued. He was admitted given 
the fact that his LFTs remain elevated despite being off of 
statin for multiple weeks with initial plan for liver biopsy. 
His improved without intervention and thus biopsy was deferred. 
He underwent a CTA of his liver to evaluate the vasculature; 
this was unremarkable.

TRANSITIONAL ISSUES:
===================
[ ] Patient should have LFTs followed up at his hepatology 
appointment in next ___ weeks
[ ] Consider restarting a lower dose statin as an outpatient 
after transaminitis resolves

ACUTE ISSUES:
=============
# Transaminitis
# Cirrhosis ___ HCV/EtOH, s/p Liver Transplant)
Patient has suffered from transaminitis as an outpatient since
starting statin in ___. He has since been stopped on
atorvastatin, now his LFTs are slowly downtrending but remained 
mildly elevated, prompting admission. Once hospitalized, he 
underwent RUQUS showing posible abnormal arterial blood flow, 
and then underwent CTA of his liver which was normal. His LFTs 
continued to downtrend at the time of discharge. He was 
continued on home tacrolimus 1 mg BID.

CHRONIC ISSUES:
===============
# Hx of CVA (___)
Patient with multiple focal deficits, including right sided
homonymous hemianopsia, short term memory issues. Continued ASA 
81 mg. Statin on hold as above. 

#Hypertension
Continued home amlodipine 5 mg, lisinopril 

#CHRONIC HBV
Continued home lamivudine

#GERD
Continued home ranitidine 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Docusate Sodium 100 mg PO BID 
2. LamiVUDine 100 mg PO DAILY 
3. Lisinopril 2.5 mg PO DAILY 
4. Tacrolimus 1 mg PO Q12H 
5. amLODIPine 5 mg PO DAILY 
6. Aspirin 81 mg PO DAILY 
7. Vitamin D 1000 UNIT PO DAILY 
8. OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - Moderate 

9. Ranitidine 75 mg PO DAILY 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY  
2.  Aspirin 81 mg PO DAILY  
3.  Docusate Sodium 100 mg PO BID  
4.  LamiVUDine 100 mg PO DAILY  
5.  Lisinopril 2.5 mg PO DAILY  
6.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate  
7.  Ranitidine 75 mg PO DAILY  
8.  Tacrolimus 1 mg PO Q12H  
9.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses
Transaminitis 
Cirrhosis

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,
  
It was a pleasure caring of you at ___.  

WHY WAS I IN THE HOSPITAL?  
-You were admitted to the hospital for worsening liver function 
tests

WHAT HAPPENED TO ME IN THE HOSPITAL?  
-You had an ultrasound of your liver
-You had a CAT scan of your liver, which was normal
-Your liver function tests improved on their own

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines as prescribed and keep 
your appointments.  

We wish you the best!  

Sincerely,  

Your ___ Team
 
Followup Instructions:
___